US07834010B2
Preparation of intermediate 4-bromomethyl benzoic acid 2,2,2-trichloroethyl ester
A solution of 2,2,2-trichloroethanol (2.46 g, 16.5 mmol) and NEt3 (1.67 g, 16.5 mmol) in CH2Cl2 (40 ml) at 0° C. was dropwise added 4-bromomethyl benzoylbromide (4.17 g, 15.0 mmol) in CH2Cl2 (20 ml) and stirred to room temperature overnight. The reaction mixture was added H2O (20 ml) and the organic layer separated. The organic layer washed with aqueous 1 M HCl (20 ml) and H2O (20 ml). The organic layer was dried over Na2SO4, filtered and the solvent evaporated in vacuo to leave the expected product as a white solid. The product was used directly in the next step without any further purification (to be filled in).

reactant | 2,2,2-trichloroethanol | 16.5 mmol, 2.46 g | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | NEt3 | 16.5 mmol, 1.67 g | CCN(CC)CC | C6H15N
reactant | 4-bromomethyl benzoylbromide | 15.0 mmol, 4.17 g | BrCC1=CC=C(C(=O)Br)C=C1 | C8H6Br2O
reactant | H2O | 20 ml | O | H2O
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl benzoic acid 2,2,2-trichloroethyl ester | ClC(COC(C1=CC=C(C=C1)CBr)=O)(Cl)Cl | C10H8BrCl3O2
